US04061746
2-[(cis-2-Cyclohexylcyclopentyl)imino]piperidine hydrochloride
Following the procedure of Example 23, only substituting for cis-2-phenylcyclopentylamine hydrochloride and O-methylcaprolactim, appropriate amounts of cis-2-(cyclohexyl)cyclopentylamine hydrochloride and O-methylvalerolactim respectively the desired product is obtained, M.P. 195.5°-197° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | O-methylcaprolactim | COC=1CCCCCN1 | C7H13NO
reactant | cis-2-(cyclohexyl)cyclopentylamine hydrochloride | Cl.C1(CCCCC1)[C@@H]1[C@@H](CCC1)N
reactant | O-methylvalerolactim | COC=1CCCCN1 | C6H11NO
product | 2-[(cis-2-Cyclohexylcyclopentyl)imino]piperidine hydrochloride | Cl.C1(CCCCC1)[C@@H]1[C@@H](CCC1)N=C1NCCCC1 | InChI=1S/C16H28N2.ClH/c1-2-7-13(8-3-1)14-9-6-10-15(14)18-16-11-4-5-12-17-16;/h13-15H,1-12H2,(H,17,18);1H/t14-,15-;/m1./s1
